US07351709B2
To a stirred solution of (3R)-4-(2,4-dimethoxybenzoyl)-3-ethyl-6-fluoro-3,4-dihydroquinoxalin-2(1H)-one (0.25 g, 0.73 mmol) in acetonitrile (6 mL) under nitrogen was added cesium carbonate (0.24 g, 0.74 mmol) and iodoethane (0.19 mL, 0.37 g, 2.4 mmol). The mixture was stirred at 89° C. in a sealed tube for 12 h. The solvent was evaporated, and the residue was partitioned between water and methylene chloride. The layers were separated, and the organic layer was washed twice with water, dried over magnesium sulfate, concentrated in vacuo, and purified via Biotage Horizon® (SiO2, gradient from 7% EtOAc/hexane to 51% EtOAc/hexane) to yield 0.20 g (71%) of (3R)-4-(2,4-dimethoxybenzoyl)-1,3-diethyl-6-fluoro-3,4-dihydroquinoxalin-2(1H)-one.

reactant | (3R)-4-(2,4-dimethoxybenzoyl)-3-ethyl-6-fluoro-3,4-dihydroquinoxalin-2(1H)-one | 0.73 mmol, 0.25 g | COC1=C(C(=O)N2[C@@H](C(NC3=CC=C(C=C23)F)=O)CC)C=CC(=C1)OC | C19H19FN2O4
reactant | cesium carbonate | 0.74 mmol, 0.24 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | 2.4 mmol, 0.19 mL, 0.37 g | ICC | C2H5I
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | (3R)-4-(2,4-dimethoxybenzoyl)-1,3-diethyl-6-fluoro-3,4-dihydroquinoxalin-2(1H)-one | 0.20 g, 71% | COC1=C(C(=O)N2[C@@H](C(N(C3=CC=C(C=C23)F)CC)=O)CC)C=CC(=C1)OC | C21H23FN2O4
